US07589042B2
Synthesis of (dichloro)(pentamethylcyclopentadienyl) (2,6-di-tert-butylphenoxy)titanium(IV)
After 600 mg of 2,6-di-tert-butylphenol (2.91 mmol) (Aldrich, 99%) were dissolved in 30 mL of diethylether, 1.28 mL of butyl lithium (2.5 M hexane solution) were slowly dropped thereonto at −31° C. After 1 hour, agitation was conducted at normal temperature for 6 hours. The resulting mixture was dissolved in diethylether, and a solution in which (trichloro)(pentamethylcyclopentadienyl)titanium(IV) (752 mg, 2.60 mmol) was dissolved in 10 mL of diethylether was slowly dropped thereonto at −30° C. After 1 hour, agitation was conducted at room temperature for 6 hours. The solvent was removed from the resulting product, and the solvent-free product was dissolved in 10 mL of toluene and then recrystallized to produce 829 mg of red solid component.

reactant | 2,6-di-tert-butylphenol | 2.91 mmol, 600 mg | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | butyl lithium | 2.5 M, 1.28 mL | C(CCC)[Li]
reactant | (trichloro)(pentamethylcyclopentadienyl)titanium(IV) | 2.60 mmol, 752 mg | Cl[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
solvent | diethylether | 30 mL | C(C)OCC | C4H10O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
product | (dichloro)(pentamethylcyclopentadienyl) (2,6-di-tert-butylphenoxy)titanium(IV) | 829 mg, Yield: 69% | Cl[Ti](OC1=C(C=CC=C1C(C)(C)C)C(C)(C)C)(C1(C(=C(C(=C1C)C)C)C)C)Cl | InChI=1S/C14H22O.C10H15.2ClH.Ti/c1-13(2,3)10-8-7-9-11(12(10)15)14(4,5)6;1-6-7(2)9(4)10(5)8(6)3;;;/h7-9,15H,1-6H3;1-5H3;2*1H;/q;;;;+3/p-3
